US07964607B2
6-{(3S,4S)-4-methyl-1-[(1-methyl-1H-imidazo[4,5-c]pyridin-2-yl)methyl]pyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one
Following the procedure for the preparation of 6-{(3S,4S)-4-methyl-1-[(2-methylpyrimidin-5-yl)methyl]pyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one but substituting 1-methyl-1H-imidazo[4,5-c]pyridine-2-carbaldehyde provided the title compound. 400 MHz 1H NMR (CDCl3) δ 10.83 (brs 1H), 9.01 (s, 1H), 8.41 (d, J=15.8 Hz, 1H), 7.98 (s, 1H), 7.30 (d, J=4.98 Hz, 1H), 4.79-4.75 (m, 1H), 4.13-4.06 (m, 3H), 4.00-3.96 (s, 4H), 3.60-3.52 (m, 2H), 3.30 (t, J=8.7 Hz, 1H), 3.07 (d, J=9.9 Hz, 1H), 2.92-2.89 (m, 1H), 2.82-2.77 (m, 1H), 2.48-2.45 (m, 1H), 2.36-2.27 (m, 2H), 2.19-2.17 (m, 1H), 1.89-1.79 (m, 2H), 1.23 (d, J=6.6 Hz, 3H). MS: (M+H m/z 449.2).

reactant | 6-{(3S,4S)-4-methyl-1-[(2-methylpyrimidin-5-yl)methyl]pyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | C[C@H]1[C@@H](CN(C1)CC=1C=NC(=NC1)C)C=1NC(C2=C(N1)N(N=C2)C2CCOCC2)=O | C21H27N7O2
reactant | 1-methyl-1H-imidazo[4,5-c]pyridine-2-carbaldehyde | CN1C(=NC=2C=NC=CC21)C=O | C8H7N3O
product | 6-{(3S,4S)-4-methyl-1-[(1-methyl-1H-imidazo[4,5-c]pyridin-2-yl)methyl]pyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | C[C@H]1[C@@H](CN(C1)CC=1N(C2=C(C=NC=C2)N1)C)C=1NC(C2=C(N1)N(N=C2)C2CCOCC2)=O | C23H28N8O2
